US07842685B2
Reaction of 4-(5-(1-cyclobutylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3-fluorobenzaldehyde (66.2 mg, 0.188 mmol) and methyl azetidine-3-carboxylate hydrochloride (42.7 mg, 0.282 mmol) according to Reference R and the general procedure for reductive amination to give methyl 1-(4-(5-(1-cyclobutylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3-fluorobenzyl)azetidine-3-carboxylate as a white solid. MS (ESI) m/z: Calculated: 451.2; Observed: 451.9 (M++1).

reactant | 4-(5-(1-cyclobutylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3-fluorobenzaldehyde | 0.188 mmol, 66.2 mg | C1(CCC1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=O)C=C2)F | C20H17FN2OS
reactant | methyl azetidine-3-carboxylate hydrochloride | 0.282 mmol, 42.7 mg | Cl.N1CC(C1)C(=O)OC
product | methyl 1-(4-(5-(1-cyclobutylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3-fluorobenzyl)azetidine-3-carboxylate | C1(CCC1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(CN1CC(C1)C(=O)OC)C=C2)F | C25H26FN3O2S
